US07569578B2
(±)-3-{1-[3-(3-Benzyl-[1,2,4]oxadiazol-5-yl)-4-(7-methyl-1H-indazol-5-yl)-butyryl]-piperidin-4-yl}-3,4-dihydro-1H-quinazolin-2-one
To a solution of N-hydroxy-2-phenyl-acetamidine (0.27 mmol, 3 equiv, this and the other amidine intermediates of the present invention were prepared as described in J. Med. Chem. 1993, 1529-1538) in anhydrous tetrahydrofuran (4 mL) was added sodium hydride (0.27 mmol, 3 equiv) under nitrogen. The mixture was heated at 65° C. for 30 min before addition of a solution of (±)-2-(7-methyl-1H-indazol-5-ylmethyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butyric acid methyl ester (0.09 mmol, 1 equiv) in tetrahydrofuran (3 mL). The reaction mixture was heated at 65° C. overnight. Tetrahydrofuran was removed in vacuo and the reaction mixture was taken up in methylene chloride, washed with water (3×4 mL), dried over sodium sulfate and concentrated. Flash chromatography on silica gel using methanol/methylene chloride from 0 to 10% gave an impure product. The final product was obtained by preparative HPLC in 27% yield. LC/MS: tR=1.60 min, 590 (MH)+. 1H-NMR (400 MHz, CD3OD) δ 7.92 (1H, s), 6.90-7.25 (10H, m), 6.74 (1H, d, J=8.00 Hz), 4.32-4.57 (2H, m), 4.24-4.29 (2H, m), 3.79-4.06 (5H, m), 2.79-3.31 (5H, m), 2.57 (1H, m), 2.44 (3H, s), 1.50-1.82 (4H, m).

reactant | N-hydroxy-2-phenyl-acetamidine | ONC(CC1=CC=CC=C1)=N | C8H10N2O
reactant | sodium hydride | 0.27 mmol, 3 equiv | [H-].[Na+]
reactant | (±)-2-(7-methyl-1H-indazol-5-ylmethyl)-4-oxo-4-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-butyric acid methyl ester | 0.09 mmol, 1 equiv | COC(C(CC(N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O)CC=1C=C2C=NNC2=C(C1)C)=O | C27H31N5O4
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (±)-3-{1-[3-(3-Benzyl-[1,2,4]oxadiazol-5-yl)-4-(7-methyl-1H-indazol-5-yl)-butyryl]-piperidin-4-yl}-3,4-dihydro-1H-quinazolin-2-one | 27% yield | C(C1=CC=CC=C1)C1=NOC(=N1)C(CC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)CC=1C=C2C=NNC2=C(C1)C | C34H35N7O3
